US05171858
8-(3,4-Dichlorophenyl)-5,6-dihydro-3-methylimidazo[1,5-a]pyridine
Combine 10 g (46.5 mmol) of cyclopropyl-(3,4-dichlorophenyl)methanone with 20 g (0.24 mol) of 2-methylimidazole and heat to 175° C. under nitrogen for 70 hr. The title compound is isolated by column chromatography on silica gel using methylene chloride as the solvent.

reactant | cyclopropyl-(3,4-dichlorophenyl)methanone | 46.5 mmol, 10 g | C1(CC1)C(=O)C1=CC(=C(C=C1)Cl)Cl | C10H8Cl2O
reactant | 2-methylimidazole | 0.24 mol, 20 g | CC=1NC=CN1 | C4H6N2
product | 8-(3,4-Dichlorophenyl)-5,6-dihydro-3-methylimidazo[1,5-a]pyridine | ClC=1C=C(C=CC1Cl)C=1C=2N(CCC1)C(=NC2)C | C14H12Cl2N2
